US05229395
A mixture of 9-(3'-hydroxymethylanilino)-2,7-dimethoxyacridine, (300 mg, 0.66 mmol), isopropyl isocyanate (1 ml) and triethylamine (2 ml) in methylene chloride (20 ml) is stirred at room temperature for 90 minutes, and then concentrated in vacuo. The residue is chromatographed on a silica gel column using commerical chloroform as the eluent to give the 9-[3'-(isopropylaminocarbonyloxymethyl)-anilino]-2,7-dimethoxyacridine, (246 mg, 84%) as a yellow solid, mp 148°-149° C.

reactant | 9-(3'-hydroxymethylanilino)-2,7-dimethoxyacridine | 0.66 mmol, 300 mg | OCC=1C=C(NC=2C3=CC(=CC=C3N=C3C=CC(=CC23)OC)OC)C=CC1 | C22H20N2O3
reactant | isopropyl isocyanate | 1 ml | C(C)(C)N=C=O | C4H7NO
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 9-[3'-(isopropylaminocarbonyloxymethyl)-anilino]-2,7-dimethoxyacridine | 246 mg, 84% | C(C)(C)NC(=O)OCC=1C=C(NC=2C3=CC(=CC=C3N=C3C=CC(=CC23)OC)OC)C=CC1 | C26H27N3O4
